US07674789B2
8a) 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide
To the solution of 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid (1.2 g, 2.71 mmol) in CH2Cl2 (80 mL) were added diisopropyl ethyl amine (0.96 mL, 5.5 mmol), HATU (1.044 g, 2.75 mmol) and 4-floroaniline (0.276 mL, 2.92 mmol). The reaction mixture was stirred over night. The reaction mixture was diluted with CH2Cl2 (50 mL) and water (50 mL) and shaked. The layers were separated and the organic layer was washed with brine (75 mL), dried over Na2SO4, filtered and concentrated. CombiFlash chromatography (load column with DCM, mobile phase EtOAc/Hexane) then provided the title compound as a white solid 1.33 g (92%). LC-MS m/z 536 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid | 2.71 mmol, 1.2 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C21H16F2N4O3S
reactant | diisopropyl ethyl amine | 5.5 mmol, 0.96 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 2.75 mmol, 1.044 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-floroaniline | 2.92 mmol, 0.276 mL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 1.33 g, 92% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)SC)=O | C27H20F3N5O2S
